US06121253
To a stirring solution of trimethyl 1,3,5-benzenetricarboxylate (10.45 g, 41.4 mmol) in 70 ml of anhydrous THF is added at room temperature a 10M solution of borane-methyl sulfide complex (25 ml, 248 mmol) and the solution is heated to reflux for 3 h. The mixture is then added slowly to 50 ml of MeOH and the resulting mixture is heated at 70° C. for 10 min to remove the methyl sulfide. Evaporation of solvent, washing twice with 50 ml of MeOH and evaporation of MeOH gives 1,3,5-tris(hydroxymethyl)benzene (6.96 g, 100%). 1H NMR (D2O): δ 4.52 (6H, s), 7.15 (3H, s).

reactant | trimethyl 1,3,5-benzenetricarboxylate | 41.4 mmol, 10.45 g | C1(=CC(=CC(=C1)C(=O)OC)C(=O)OC)C(=O)OC | C12H12O6
reactant | MeOH | 50 ml | CO | CH4O
solvent | THF | 70 ml | C1CCOC1 | C4H8O
product | 1,3,5-tris(hydroxymethyl)benzene | 6.96 g, 100% | OCC1=CC(=CC(=C1)CO)CO | C9H12O3
